US07045530B2
N-phenyl-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-[1]benzofuran]-5′-amine
The product of 1E (200 mg, 0.68 mmol) was coupled with aniline (Aldrich, 130 mg, 1.40 mmol) catalyzed by Pd2(dba)3 (Strem Chemicals, 12.4 mg, 0.014 mmol) and Xantphos (Strem Chemicals, 24.3 mg, 0.042 mmol) with Cs2CO3 (Aldrich, 460 mg, 1.4 mmol) in toluene (Aldrich, anhydrous, 10 mL) at 110° C. for 20 h. The reaction was monitored with TLC. After the reaction was complete, it was diluted with EtOAc (30 mL) and washed with brine (2×5 mL). The organic solution was concentrated and the title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.20) as oil (120 mg, 58% yield). 1H NMR (MeOH-d4, 300 MHz) δ 1.52–1.63 (m, 1H), 1.73–1.85 (m, 2H), 1.99–2.06 (m, 1H), 2.13–2.25 (m, 1H), 2.84–3.43 (m, 8H), 6.63 (d, J=8.6 Hz, 1H), 6.70 (tt, J=7.1, 1.2 Hz, 1H), 6.80–7.90 (m, 2H), 6.96–6.99 (m, 1H), 7.06–7.16 (m, 2H) ppm. MS (DCl/NH3) m/z 307 (M+H)+.

reactant | aniline | 1.40 mmol, 130 mg | NC1=CC=CC=C1 | C6H7N
reactant | Xantphos | 0.042 mmol, 24.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.4 mmol, 460 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NH3.H2O | N.O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
catalyst | Pd2(dba)3 | 0.014 mmol, 12.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-phenyl-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-[1]benzofuran]-5′-amine | C1(=CC=CC=C1)NC=1C=CC2=C(CC3(O2)C2CCN(C3)CC2)C1 | C20H22N2O
